US07795444B2
Preparation of 1-benzyl-3-{(S)-2-(4-nitrophenyl)-1-[2-(thiophen-2-yl)thiazol-4-yl]ethyl}urea (22):
To a solution of (S)-2-(4-nitrophenyl)-1-[(2-thiophene-2-yl)thiazol-4-yl)ethan-amine hydrobromide salt, 8, and Et3N (0.42 mL, 3 mmol) in 10 mL DCM is added benzyl isocyanate (0.12 mL, 1 mmol). The mixture is stirred at room temperature for 18 hours. The product is isolated by filtration to afford 0.445 g (96% yield) of the desired product which is used without further purification.

reactant | (S)-2-(4-nitrophenyl)-1-[(2-thiophene-2-yl)thiazol-4-yl)ethan-amine hydrobromide salt | Br.[N+](=O)([O-])C1=CC=C(C=C1)C[C@H](N)C=1N=C(SC1)C=1SC=CC1
reactant | Et3N | 3 mmol, 0.42 mL | CCN(CC)CC | C6H15N
reactant | benzyl isocyanate | 1 mmol, 0.12 mL | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyl-3-{(S)-2-(4-nitrophenyl)-1-[2-(thiophen-2-yl)thiazol-4-yl]ethyl}urea | 0.445 g, 96% yield | C(C1=CC=CC=C1)NC(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)C=1SC=CC1 | C23H20N4O3S2
